US07547691B2
4-(2-aminoethyl)-piperidine-1-carboxylic acid tert-butyl ester (0.390 g, 1.72 mmol) is added to a stirred suspension of 2-(2,5-dichloro-pyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide (0.250 g, 0.686 mmol) and diisopropylethylamine (0.300 mL, 1.72 mmol) in anhydrous 1,4-dioxane (4 mL) at room temperature under nitrogen. The resultant mixture is heated at 95° C. for 12 hours then cooled to room temperature and purified (silica gel chromatography, eluting with 2 M NH3/CH3OH in dichloromethane: 0 to 7%) to give 4-{2-[5-chloro-4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester as a solid.

reactant | 4-(2-aminoethyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.72 mmol, 0.390 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN | C12H24N2O2
reactant | 2-(2,5-dichloro-pyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | 0.686 mmol, 0.250 g | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)Cl | C16H11Cl2N3OS
reactant | diisopropylethylamine | 1.72 mmol, 0.300 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 4-{2-[5-chloro-4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCNC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2C(NC2CC2)=O)Cl | C28H34ClN5O3S
